US07208494B2
b) (4R,9aR)-7-Hydroxymethyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 90.0 mg (0.27 mmol) (4R,9aR)-7-formyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 1 mL methanol was added 6.2 mg (0.16 mmol) sodium borohydride. After 2 h the reaction mixture was poured into saturated aqueous sodium bicarbonate solution and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate and filtered. The solvent was removed at a rotary evaporator and the residue was dried under high vacuum to give the compound as a light brown foam which was used without further purification (99.4%).

reactant | (4R,9aR)-7-formyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.27 mmol, 90.0 mg | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)C=O | C18H25N3O3
reactant | sodium borohydride | 0.16 mmol, 6.2 mg | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | (4R,9aR)-7-Hydroxymethyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)CO | C18H27N3O3
